US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 2,4-dimethylthiazole-5-sulfonyl chloride (0.5 mmol) to obtain N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2,4-dimethylthiazole-5-sulfonamide. 1H NMR (300 MHz, CDCl3)) δ 2.3 (s, 3H), 2.6 (s, 3H), 5.7 (s, 1H), 5.9 (dt, 1H), 7.1 (q, 1H), 7.2 (d, 1H), 7.3 (m, 1H), 7.4 (d, 1H), 7.4 (s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 2,4-dimethylthiazole-5-sulfonyl chloride | 0.5 mmol | CC=1SC(=C(N1)C)S(=O)(=O)Cl | C5H6ClNO2S2
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2,4-dimethylthiazole-5-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1=C(N=C(S1)C)C)NC1=C(C=C(C=C1)I)F | C17H13F3IN3O2S2
